US09212172B2
Bazedoxifene acetate (15 g) and dimethylformamide (75 mL) are mixed and heated to 70-75° C. to produce a clear solution, followed by filtration to make it particle free. To the filtrate, toluene (1000 mL), morpholine (1 mL), and water (500 mL) are added and the mixture is cooled to 25-30° C. and stirred overnight. The solid that forms is collected by filtration, washed with toluene (20 mL), and dried under vacuum at 70° C. for 5 hours to afford 10 g of crystalline bazedoxifene free base Form A.

reactant | Bazedoxifene acetate | 15 g | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O.CC(=O)O
solvent | dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
product | bazedoxifene | 10 g | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O | C30H34N2O3
